US04992433
A mixture of 2.4 parts of 3-butyl-6-chloropyridazine, 4.2 parts of ethyl 4-[2-(4-piperidinyl)ethoxy]benzoate and 2.1 parts of sodium carbonate was stirred for 4 hours at 140° C. After cooling, the reaction mixture was taken up in water and dichloromethane. The separated organic layer was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybispropane. The product was filtered off, washed with 2,2'-oxybispropane and dried at 50° C., yielding 1.2 parts (20.8%) of ethyl 4-[2-[1-(6-butyl-3-pyridazinyl)-4-piperidinyl]ethoxy]benzoate; mp. 91.4° C. (comp. 84).

reactant | 3-butyl-6-chloropyridazine | C(CCC)C=1N=NC(=CC1)Cl | C8H11ClN2
reactant | ethyl 4-[2-(4-piperidinyl)ethoxy]benzoate | N1CCC(CC1)CCOC1=CC=C(C(=O)OCC)C=C1 | C16H23NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 4-[2-[1-(6-butyl-3-pyridazinyl)-4-piperidinyl]ethoxy]benzoate | 20.8% | C(CCC)C1=CC=C(N=N1)N1CCC(CC1)CCOC1=CC=C(C(=O)OCC)C=C1 | C24H33N3O3
